US08497270B2
ethyl 2-cyano-5-fluorobenzoate
Zinc cyanide (26.5 g; 0.225 mol) and Pd2(dba)3 (1.9 g; 3.4 mmol) were added to a solution of ethyl 2-bromo-5-fluorobenzoate (27.9 g; 0.112 mol) in DMF (71 ml). Triphenyl phosphine (2.9 g; 11 mmol) was added and then the reaction mixture was stirred at 130° C. under nitrogen atmosphere for 4 hours. The mixture was poured out into H2O (300 ml) and then extracted with EtOAc (200 ml). The organic layer was separated, washed with H2O (2×100 ml), brine (100 ml), dried (MgSO4), filtered and the solvent was evaporated.

reactant | ethyl 2-bromo-5-fluorobenzoate | 0.112 mol, 27.9 g | BrC1=C(C(=O)OCC)C=C(C=C1)F | C9H8BrFO2
reactant | Triphenyl phosphine | 11 mmol, 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | H2O | 300 ml | O | H2O
reactant | DMF | 71 ml | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 0.225 mol, 26.5 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 3.4 mmol, 1.9 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 2-cyano-5-fluorobenzoate | C(#N)C1=C(C(=O)OCC)C=C(C=C1)F | C10H8FNO2
